2180-10-18 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - low UOP overnight
   - CO/CI remained > 2 without change in milrinone dose
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-10-18**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complains of mild abdominal discomfort, no BM since yesterday.  Denies
   N/V, diarrhea, shortness of breath, chest pain
   Flowsheet Data as of  [**2180-10-18**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 78 (73 - 82) bpm
   BP: 116/74(88) {95/56(70) - 135/94(108)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (0 - 17)mmHg
   PAP: (28 mmHg) / (19 mmHg)
   CO/CI (Fick): (5.5 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 59 - 70
   Total In:
                                                                    223 mL
                                                                     99 mL
   PO:
   TF:
   IVF:
                                                                    223 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                     64 mL
   Urine:
                                                                    260 mL
                                                                     64 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -37 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40/34/82.[**Numeric Identifier 96**]/20/-2
   Physical Examination
   GENERAL: NAD. tearful, Oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink,
   malar rash, cushingoid,
   NECK: Supple with JVP difficult to assess given PA catheter
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. +systolic murmur.  No S3/ S4. No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales/ crackles to [**12-21**] lung fields
   ABDOMEN: Soft, ND. Tenderness to palpation in midepigastrium. +BS.  No
   rebound or guarding
   EXTREMITIES: nonpitting edema b/l.   No femoral bruits. R femoral
   arterial sheath in place
   PULSES:  warm, well perfused
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   163 K/uL
   11.7 g/dL
   120 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   50 mg/dL
   99 mEq/L
   133 mEq/L
   35.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2180-10-17**]  03:06 PM
                             [**2180-10-17**]  04:29 PM
                             [**2180-10-17**]  04:59 PM
                             [**2180-10-17**]  10:11 PM
                             [**2180-10-17**]  11:38 PM
                             [**2180-10-18**]  04:55 AM
   WBC
   3.9
   Hct
   35.0
   Plt
   163
   Cr
   2.3
   2.5
   2.9
   TCO2
   20
   20
   22
   Glucose
   135
   120
   Other labs: PT / PTT / INR:12.3/34.0/1.0, ALT / AST:299/443, Alk Phos /
   T Bili:110/0.5, Differential-Neuts:90.9 %, Lymph:5.9 %, Mono:2.5 %,
   Eos:0.6 %, Albumin:2.8 g/dL, LDH:432 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
   35 yo F with SLE, restrictive lung disease, CM (EF 15-20%) presents
   with severe lupus induced cardiomyopathy, now with oliguria and
   worsening renal function.
   .
   #. Cardiomyopathy: Pt with ECHO on [**10-11**] that showed worsening EF of
   15-20% with increased LV cavity size has increased and more prominent
   RV dysfunction. Pt with heart cath that showed PCWP of 33, PA sat of
   37% and CI of 1.35.  Pt was placed on milrinone and CI remained > 2
   overnight.  Cause is likely secondary to SLE rather then peri-partum
   cardiomyopathy.  Given the patient's severe SLE she is not a transplant
   candidate.
   - Cont milrinone gtt with goal SBP >80, MAPS >60 and CI: 2
   - start 1g solumedrol x3 days, then continue with solumedrol 1mg/kg
   - f/u rheum recs regarding cytoxan
   - Renal Consult
   - hold on BB overnight
   .
   #. SLE: Pt diagnosed in [**2168**], manifested by kidney disease previously
   membranous nephropathy, facial rash, Sjogren's syndrome, Raynaud's
   phenomenon, and pleuritis.  Followed by Dr. [**Last Name (STitle) 10980**] at B&W.
   - f/u rheum recs
   - cont ASA for possible hypercoagulable state
   - 1g solumedrol x3 days
   - consider cytoxin: will consider viability of egg harvesting prior to
   initiating therapy
   - will discuss with rheum further management including cytoxan
   - start plasmapheresis until cytoxan initiated
   .
   #. Acute on Chronic Renal Failure: Pt with h/o SLE Nephritis. Pt
   previously with membranous nephropathy on prior biopsy.  She had repeat
   biopsy showing type 3,4,5 lupus nephritis.  Worsening renal failure
   with creatinine increased to 2.9 today up from 1.4 on admission.  Urine
   lytes indicative of prerenal ischemia (FeUrea < 0.02%) +/- evolving
   ATN  likely from poor cardiac output/ cardiorenal syndrome
   - bolus 80mg lasix and start gtt at 10mg/hr
   - f/u renal recs
   - cont to trend Cr
   - renal U/S to r/o obstructive uropathy
   - renally dose meds and avoid nephrotoxins
   .
   #. Nausea/Diarrhea: Improved with symptomatic management
   - cont zofran prn
   - f/u GI recs
   .
   FEN: Cardiac
   .
   ACCESS: PIV's
   - d/c a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin
   -Bowel regimen prn
   .
   CODE: Full
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. I have discussed
   this plan with Dr(s). [**Name (NI) 9220**] and [**Doctor Last Name 3068**] from rheumatology and
   renal, respectively. Progress reviewed extensively during family
   meeting.
   Total time spent on patient care: 80 minutes.
   Additional comments:
   Cardiac index is markedly improved on milrinone.  This is an excellent
   sign, as it indicates significant contractile reserve.  Hemodynamically
   stable.  Unfortunately, the creat continues to rise, and she remains
   oliguric.  This is due to the underlying lupus nephritis (in acute on
   chronic phase) as well as reduced effective arterial volume.  Now that
   she is on milrinone, her pulmonary vascular  and alveolar edema have
   resolved.  Her last PAD was 5 mmHg and her last RA pressure was - 2
   mmHg despite oliguria/anuria.  This indicated that the augmented
   cardiac output has completely resolved all of her venous congestion and
   now she can handle, in fact, requires more fluids.
   Therefore we will give iv fluid boluses PLUS Lasix gtt simultaneously.
   I consider this to be a sort of crisis period which, if patient can be
   sustained, will end in a reasonable hope for cardiac, and hopefully
   renal, recovery.  Therefore, maximal immunosuppressive therapy will be
   implemented, including high dose glucocorticoid, cyclophosphamide,
   plasmapheresis.  Continue milrinone.  Check echocardiogram today, and
   ambx when available.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-10-18**]
   13:19 ------

2180-10-20 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD line placed yesterday.  Coags should be checked prior to pahresis
   days.
   - Rheum: to get cytoxan tomorrow, with mesna
   - Renal: HD today
   - CI > 5, Milrinone d/c'd
   - Pharmacy: needs at least 500cc NS prior to cytoxan (ideally 1L before
   and 1L after)
   Pt admits to mild chest discomfort, similar to what she has been
   having.  She denies nausea or diarrhea.  She has no chest pain,
   shortness of breath, urinary sx.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 77 (74 - 95) bpm
   BP: 114/67(76) {91/40(52) - 120/67(78)} mmHg
   RR: 15 (6 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 71 kg
   Height: 65 Inch
    CVP: 12 (3 - 14)mmHg
   PAP: (37 mmHg) / (20 mmHg)
   CO/CI (Fick): (9.3 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 76 - 82
   Total In:
                                                                    879 mL
                                                                     36 mL
   PO:
                                                                    450 mL
   TF:
   IVF:
                                                                    429 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    222 mL
                                                                     30 mL
   Urine:
                                                                    222 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Gen: well appearing female, malar rash, cushingoid features
   Neck: Right sided central line
   CV: RRR.  Nl S1 and S2.  soft S3.
   Lungs: bilateral rales to [**11-20**]
   Abd: soft, non distended, mild epigastric tenderness.  No rebound or
   guarding.  ABS
   Ext: 2+ bilateral, symmetrical edema, warm and well perfused
   Psych: pleasant, responds appropriately.
   Labs / Radiology
   92 K/uL
   8.9 g/dL
   155 mg/dL
   3.8 mg/dL
   18 mEq/L
   3.8 mEq/L
   56 mg/dL
   103 mEq/L
   135 mEq/L
   29
   5.9 K/uL
        [image002.jpg]
                             [**2180-10-18**]  02:31 PM
                             [**2180-10-18**]  02:33 PM
                             [**2180-10-18**]  11:17 PM
                             [**2180-10-19**]  05:15 AM
                             [**2180-10-19**]  07:37 AM
                             [**2180-10-19**]  04:39 PM
                             [**2180-10-19**]  04:58 PM
                             [**2180-10-19**]  09:44 PM
                             [**2180-10-20**]  02:19 AM
                             [**2180-10-20**]  02:29 AM
   WBC
   5.2
   5.1
   5.9
   Hct
   32
   31
   29.0
   29.5
   9.1
   25
   26.6
   29
   Plt
   124
   134
   92
   Cr
   3.2
   3.7
   3.4
   3.8
   Glucose
   161
   130
   173
   155
   Other labs: PT / PTT / INR:12.5/27.9/1.1, ALT / AST:77/41, Alk Phos / T
   Bili:37/0.3, Differential-Neuts:90.9 %, Lymph:5.9 %, Mono:2.5 %,
   Eos:0.6 %, Albumin:2.8 g/dL, LDH:173 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   #. Cardiomyopathy: Pt with ECHO on [**10-11**] that showed worsening EF of
   15-20% with increased LV cavity size has increased and more prominent
   RV dysfunction. Pt with heart cath that showed PCWP of 33, PA sat of
   37% and CI of 1.35.  Given the patient's severe SLE she is not a
   transplant candidate.  Unclear if she has lupus induced cardiomyopathy
   (typically [**12-20**] myocarditis) or a peripartum cardiomyopathy.  ECHO has
   shown some improvement of EF.   However, this is in the setting of
   milrinone.  ECHO also showed no evidence of [**Doctor Last Name 10280**] [**Doctor Last Name 9386**]
   endocarditis.   Improvement in cardiac reserve suggests that she could
   potentially do well if source of her heart failure is treated.
   - Completed  1g solumedrol x3 days, continue with solumedrol 1mg/kg
   daily
   - Plan to give cytoxan today with 1L fluid
   - plasmapharesis X 5 tx qod, s/p 1 tx
   - tx with ACE I and BB in setting of acute decompensated HF  not
   indicated.
   - d/c Lasix drip
   - biopsy pending
   - HD today, remove 2L
   - d/c
d milrinone
   #. SLE: Pt diagnosed in [**2168**], manifested by kidney disease previously
   membranous nephropathy, facial rash, Sjogren's syndrome, Raynaud's
   phenomenon, and pleuritis.  Followed by Dr. [**Last Name (STitle) 10980**] at B&W.
   - f/u rheum recs
   - cont ASA
   - continue steroids
   - Cont pharesis X 5 tx, cytoxan today.   Pt received 7.5mg Leupron [**10-18**]
   for ovarian protection
   - f/u lupus labs, C3 and C4 low.  ds DNA positive 1:140.
   - lupus anticoagulant negative
   #. Acute on Chronic Renal Failure: Pt with h/o SLE Nephritis. Pt
   previously with membranous nephropathy on prior biopsy.  She had repeat
   biopsy showing type 3,4,5 lupus nephritis.  Worsening renal failure
   with creatinine increased to 3.7 today up from 1.4 on admission.  Urine
   lytes indicative of prerenal ischemia (FeUrea < 0.02%) +/- evolving
   ATN  likely from poor cardiac output/ cardiorenal syndrome.  renal U/S
   show's no obstruction.
    - f/u renal recs. Will get dialysis today.
   - cont to trend Cr
   - renally dose meds and avoid nephrotoxins
   #Anemia - Hct 26.9 today (35 yesterday), in setting of new
   hyponatremia.  She has not been urinating and possibly dilutional.
   Baseline is 40s.
   - T&S, Goal to transfuse is 23.
   #. Nausea/Diarrhea: Improved with symptomatic management.  Most likely
   due to edema of the GI system from heart failure.  Transaminitis can
   also be attributed to hepatic congestion. No evidence of portal
   thrombosis.
   - cont zofran prn
   - doppler u/s nl
   #FEN: Cardiac ,
   #ACCESS: PIV's, SGC  (d/c post cytoxan tx if hemodynamically stable)
   #PROPHYLAXIS:
   -DVT ppx with heparin
   -Bowel regimen prn
   #CODE: Full
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2180-10-17**] 04:00 PM
   Cordis/Introducer - [**2180-10-17**] 04:00 PM
   Dialysis Catheter - [**2180-10-19**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   signed on [**2180-10-23**]
   we are continuing with maximal immunosuppressive therapy and plan to do
   so through weekend and beyond
   cardiac status stable
   awaiting improvement in renal function
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-10-23**]
   07:47 ------

2180-10-21 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerated HD well with -2.7 L
   - had cytoxan infusion with 3-way foley irrigating bladder every 6
   hours
   - d/ced swan catheter and cordis
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-10-20**] 04:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-21**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (69 - 94) bpm
   BP: 115/81(87) {105/60(75) - 123/83(92)} mmHg
   RR: 14 (6 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 71 kg
   Height: 65 Inch
    CVP: 12 (12 - 14)mmHg
   PAP: (36 mmHg) / (19 mmHg)
   Total In:
                                                                  1,400 mL
                                                                     33 mL
   PO:
                                                                    840 mL
   TF:
   IVF:
                                                                    560 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  3,005 mL
                                                                    155 mL
   Urine:
                                                                    305 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,605 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   8.9
   155 mg/dL
   3.8 mg/dL
   18 mEq/L
   3.8 mEq/L
   56 mg/dL
   103 mEq/L
   135 mEq/L
   29
   5.9 K/uL
        [image002.jpg]
                             [**2180-10-18**]  02:31 PM
                             [**2180-10-18**]  02:33 PM
                             [**2180-10-18**]  11:17 PM
                             [**2180-10-19**]  05:15 AM
                             [**2180-10-19**]  07:37 AM
                             [**2180-10-19**]  04:39 PM
                             [**2180-10-19**]  04:58 PM
                             [**2180-10-19**]  09:44 PM
                             [**2180-10-20**]  02:19 AM
                             [**2180-10-20**]  02:29 AM
   WBC
   5.2
   5.1
   5.9
   Hct
   32
   31
   29.0
   29.5
   9.1
   25
   26.6
   29
   Plt
   124
   134
   92
   Cr
   3.2
   3.7
   3.4
   3.8
   Glucose
   161
   130
   173
   155
   Other labs: ALT / AST:77/41, Alk Phos / T Bili:37/0.3, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: path pending
   Imaging: no new imaging
   Microbiology: no new micro
   ECG: Tele: 4 beat run of VT, infrequent PVC.  otherwise NSR.
   Assessment and Plan
   35 yo F with SLE, restrictive lung disease, CM (EF 15-20%) presents
   with severe lupus induced cardiomyopathy.
   #. Cardiomyopathy: Pt with ECHO on [**10-11**] that showed worsening EF of
   15-20% with increased LV cavity size has increased and more prominent
   RV dysfunction. Pt with heart cath that showed PCWP of 33, PA sat of
   37% and CI of 1.35.  Given the patient's severe SLE she is not a
   transplant candidate.  Unclear if she has lupus induced cardiomyopathy
   (typically [**12-20**] myocarditis) or a peripartum cardiomyopathy.  Treating
   for Lupus myocarditis induced myopathy.  ECHO has shown some
   improvement of EF, in the setting of milrinone.  However, CI has
   improved off of the milrinone and Swan Ganz now d/c'd.  Pt
   hemodynamically stable, believe she is perfusing her kidneys well and
   urine output is now moderate.
   - Completed  1g solumedrol x3 days, continue with solumedrol 1mg/kg
   daily
   - s/p cytoxan 750mg  X 1 with mesna on [**10-20**]
   - plasmapharesis X 5 tx qod, s/p 1 tx - 2nd tx today
   - biopsy pending
   - if UOP improves to ~20-30cc/hr consistently, will consider starting
   lasix to diurese
   #. SLE: Pt diagnosed in [**2168**], manifested by kidney disease previously
   membranous nephropathy, facial rash, Sjogren's syndrome, Raynaud's
   phenomenon, and pleuritis.  Followed by Dr. [**Last Name (STitle) 10980**] at B&W.  Now s/p
   cytoxan, expect to see drop in platelets (pt has h/o ITP) and
   neutropenia.   Expect to see response in 10 days.
   - f/u rheum recs
   - cont ASA
   - continue steroids
   - Cont pharesis X 5 tx  Pt received 7.5mg Leupron [**10-18**] for ovarian
   protection.  Received 750mg cytoxan on [**10-20**] with mesna
   - f/u lupus labs, C3 and C4 low.  ds DNA positive 1:140.
   - lupus anticoagulant negative
   #. Acute on Chronic Renal Failure: Pt with h/o SLE Nephritis. Pt
   previously with membranous nephropathy on prior biopsy.  She had repeat
   biopsy showing type 3,4,5 lupus nephritis.  Worsening renal failure
   with creatinine increased to 3.7 today up from 1.4 on admission.  Urine
   lytes indicative of prerenal ischemia (FeUrea < 0.02%) +/- evolving
   ATN  likely from poor cardiac output/ cardiorenal syndrome.  renal U/S
   show's no obstruction.   Expect to see some improvement with treatmetn
   of lupus as above.
    - f/u renal recs.  dialysis per renal team.
   - cont to trend Cr
   - renally dose meds and avoid nephrotoxins
   #Anemia - Hct 29 s/p dialysis, improved from nadir of 26.6.  Suggesting
   dilution is a significant component.  [**Month (only) 60**] be contributed by phelbotomy,
   low erythropoeisis in setting of active lupus, steroid/cytoxan tx.
   - T&S, Goal to transfuse is 23.
   #. Nausea/Diarrhea: Most likely due to edema of the GI system from
   heart failure.  Transaminitis can also be attributed to hepatic
   congestion. No evidence of portal thrombosis.
   Symptoms have significantly improved with diuresis.
   - cont zofran prn.
   #FEN: Cardiac, 2gm sodium, Low Phos
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin
   -Bowel regimen prn
   #CODE: Full
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2180-10-19**] 11:00 AM
   PICC Line - [**2180-10-20**] 09:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   35 year old asian female with history of SLE as well as Scleroderma now
   presents with CHF in the setting of a Lupus flair and resultant
   cardiomyopathy. EF decreased to 15% at it's lowest and post-milrinone
   and IV solumedrol has increased to 25-30%. Pathology of RV biopsy
   demonstrates lymphocyic inflitrate preliminarily. Patient is now on
   Solumedrol 30 mg Q 12 hours and is receiving plasma exchange with a
   planned course of every other day for a total of 5 treatments. She
   received a one time dose of Cytoxan by rheum yesterday and is
   tolerating this well. She has some blood tinged urine which is being
   irrigated with a 3 lumen foley and bladder washes. She is off Milrinone
   and breathing is much improved today as she is able to lye flat. I/O
   are -1600 in 24 hours.
   Physical Examination
   lungs - rales half up on right and at base on left
   heart - RR no murmer
   Ext - min bilateral edema
   Medical Decision Making
   Will plan for ongoin PEX today and QOD for a total of 5 treatments.
   Will follow-up final result of the RV biopsy. Follow createnine closely
   as it does not appear that she is making more than 10 cc/hour but this
   is difficult to assess given bladder washes. Follow right vascath site
   as it continues to ooze and is very painful. Plan for re-echo next
   week.
   ------ Protected Section ------
   Addendum to Resident Progress Note:
   ROS: Pt denies CP, SOB, vomiting, bowel or bladder symptoms.
   + blood in foley bag
   PE:
   Well appearing female, tired.  Cushingoid features, malar rash
   Neck: RIJ removed, dressing CDI
   Chest: bilateral rales to [**11-20**]
   Heart: Nl S1 and S2.  + S3.  No murmurs appreciated
   Abd: soft, ND, mild epigastric tenderness
   Ext: 3+ bilateral edema
   Neuro: A&O X 3.  appropriate.
   Labs
   WBC 5.9; Hct 28.9; Plt 70
   135   102   32    155
   4.4   25   2.2
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2180-10-21**] 15:07 ------
   Plan as above.
   Additionally, [**Last Name **] problem of hematuria noted
 most likely from
   cytoxan.  As pt not urinating with perform CBI to maintain clear urine
   output.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2180-10-21**] 17:00 ------

2180-10-22 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -HD site was bleeding all day, gave 1 bag of cryo and 1 bag of plt.
   Post plt count 79 from 54.  bleeding stopped with surgicell.
   -Renal: next HD for Tuesday (alt of pheresis days)
   -Transfusion: pheresis w/out complication, no plamsa transfused
   -Rheumatology: stop SQH and ASA, order HIT antibodies. trend LFTS
   -Onc: stop platelets, ASA, ibuprofen, all heparin products including
   line flushes.  follow fibrinogen, coags.  if continues to bleed give
   FFP.
   - UOP 18cc/hr as of 5pm, ~30cc/hr overnight
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-10-21**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (69 - 88) bpm
   BP: 116/80(88) {108/75(84) - 126/89(96)} mmHg
   RR: 20 (3 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 71 kg
   Height: 65 Inch
                  Total In:
                                                                    473 mL
                  PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
                                                                    373 mL
   Total out:
                                                                    464 mL
                                                                    200 mL
   Urine:
                                                                    464 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Well appearing female, tired.  Cushingoid features, malar rash
   Neck: RIJ removed, dressing CDI
   Chest: bilateral rales to [**11-20**]
   Heart: Nl S1 and S2.  + S3.  No murmurs appreciated
   Abd: soft, ND, mild epigastric tenderness
   Ext: 3+ bilateral edema
   Neuro: A&O X 3.  appropriate.
   Labs / Radiology
   79 K/uL
   7.9 g/dL
   90 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   33 mg/dL
   105 mEq/L
   138 mEq/L
   25.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2180-10-19**]  07:37 AM
                             [**2180-10-19**]  04:39 PM
                             [**2180-10-19**]  04:58 PM
                             [**2180-10-19**]  09:44 PM
                             [**2180-10-20**]  02:19 AM
                             [**2180-10-20**]  02:29 AM
                             [**2180-10-21**]  06:22 AM
                             [**2180-10-21**]  12:58 PM
                             [**2180-10-21**]  06:41 PM
                             [**2180-10-22**]  06:02 AM
   WBC
   5.1
   5.9
   6.8
   5.1
   Hct
   29.5
   9.1
   25
   26.6
   29
   28.9
   24.1
   25.1
   Plt
   134
   92
   70
   54
   68
   79
   Cr
   3.4
   3.8
   2.2
   1.5
   Glucose
   173
   155
   92
   90
   Other labs: PT / PTT / INR:11.6/31.2/0.9, ALT / AST:29/19, Alk Phos / T
   Bili:31/0.4, Differential-Neuts:90.9 %, Lymph:5.9 %, Mono:2.5 %,
   Eos:0.6 %, Fibrinogen:160 mg/dL, Albumin:2.8 g/dL, LDH:173 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   [**Known firstname 2127**] received 1 units of PLatelets and cryoppt yesterday for
   ongoing oozing at the vascath site in the right chest. Her platelet
   count is up to 75K today and the vascath oozing has ceased. All
   heparins have been removed and HIT Ab has been sent. Her low platelets
   are likely due to ITP.PLasma exchange continues and is tolerated well.
   This morning she is complaining of chest heaviness and difficulty
   breathing but her sats are 100% on RA. We will check a CXR to r/o
   pulonary edema although she has rales bilaterally on exam and bilateral
   effusions. Will also check an echo to r/o pericardial effusion. We will
   give lasix 40 mg PO today and begin carvedilol 3.125 mg PO BID. We will
   discuss with Dr [**First Name (STitle) **] adding hydralazine and nitrates. She remains on
   SQ heparin for DVT prophylaxis.
   # Thrombocytopenia
 Pt bleeding from HD site yesterday, improved with
   Cryo, Platelets, and Surgicel. Heme consulted
 remove ASA, NSAIDs, all
   heparin products, f/u LFTs, fibrinogen.
   - f/u HIT Ab panel
   - trend plt
   - monitor HCT
   #. Cardiomyopathy: Pt with ECHO on [**10-11**] that showed worsening EF of
   15-20% with increased LV cavity size has increased and more prominent
   RV dysfunction. Pt with heart cath that showed PCWP of 33, PA sat of
   37% and CI of 1.35.  Given the patient's severe SLE she is not a
   transplant candidate.  Unclear if she has lupus induced cardiomyopathy
   (typically [**12-20**] myocarditis) or a peripartum cardiomyopathy.  Treating
   for Lupus myocarditis induced myopathy.  ECHO has shown some
   improvement of EF, in the setting of milrinone.  However, CI has
   improved off of the milrinone and Swan Ganz now d/c'd.  Pt
   hemodynamically stable, believe she is perfusing her kidneys well and
   urine output is now moderate.
   - Completed  1g solumedrol x3 days, continue with solumedrol 1mg/kg
   daily
   - s/p cytoxan 750mg  X 1 with mesna on [**10-20**]
   - plasmapharesis X 5 tx qod, s/p 2 tx
   - biopsy pending
   - if UOP improves to ~20-30cc/hr consistently, will consider starting
   lasix to diurese
   #. SLE: Pt diagnosed in [**2168**], manifested by kidney disease previously
   membranous nephropathy, facial rash, Sjogren's syndrome, Raynaud's
   phenomenon, and pleuritis.  Followed by Dr. [**Last Name (STitle) 10980**] at B&W.  Now s/p
   cytoxan, expect to see drop in platelets (pt has h/o ITP) and
   neutropenia.   Expect to see response in 10 days.
   - f/u rheum recs
   - cont ASA
   - continue steroids
   - Cont pheresis X 5 tx  Pt received 7.5mg Leupron [**10-18**] for ovarian
   protection.  Received 750mg cytoxan on [**10-20**] with mesna
   - f/u lupus labs, C3 and C4 low.  ds DNA positive 1:140.
   - lupus anticoagulant negative
   #. Acute on Chronic Renal Failure: Pt with h/o SLE Nephritis. Pt
   previously with membranous nephropathy on prior biopsy.  She had repeat
   biopsy showing type 3,4,5 lupus nephritis.  Worsening renal failure
   with creatinine increased to 3.7 today up from 1.4 on admission.  Urine
   lytes indicative of prerenal ischemia (FeUrea < 0.02%) +/- evolving
   ATN  likely from poor cardiac output/ cardiorenal syndrome.  renal U/S
   show's no obstruction.   Expect to see some improvement with treatmetn
   of lupus as above.
    - f/u renal recs.  dialysis per renal team.
   - cont to trend Cr
   - renally dose meds and avoid nephrotoxins
   #Anemia - Hct 29 s/p dialysis, improved from nadir of 26.6.  Suggesting
   dilution is a significant component.  [**Month (only) 60**] be contributed by phelbotomy,
   low erythropoeisis in setting of active lupus, steroid/cytoxan tx.
   - T&S, Goal to transfuse is 23.
   #. Nausea/Diarrhea: Most likely due to edema of the GI system from
   heart failure.  Transaminitis can also be attributed to hepatic
   congestion. No evidence of portal thrombosis.
   Symptoms have significantly improved with diuresis.
   - cont zofran prn.
   #FEN: Cardiac, 2gm sodium, Low Phos
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin
   -Bowel regimen prn
   #CODE: Full
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2180-10-19**] 11:00 AM
   PICC Line - [**2180-10-20**] 09:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-10-23 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - foley discontinued and pt continued to have good UOP with no
   hematuria.  Received 1 dose of Lasix 40mg IV
   - Started Carvedilol 3.125mg PO BID
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: discomfort at site of former Cordis.  Improvved
   chest pressure.  Denies SOB, cough, dizziness, abdominal discomfort or
   other complaints
   Flowsheet Data as of  [**2180-10-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 78 (65 - 92) bpm
   BP: 138/102(110) {106/79(85) - 138/102(110)} mmHg
   RR: 8 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 71 kg
   Height: 65 Inch
                  Total In:
                                                                    340 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,032 mL
                                                                    275 mL
   Urine:
                                                                  2,032 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,692 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Well appearing female, tired.  Cushingoid features, malar rash
   Neck: RIJ removed, dressing CDI. Ecchymoses at former site
   Chest: diminished at base, bibasilar rales. R>L
   Heart: Nl S1 and S2.  + S3.  No murmurs appreciated
   Abd: soft, ND, mild epigastric tenderness
   Ext: 2+ bilateral edema. + DP pulse b/l
   Neuro: A&O X 3.  appropriate.
   Labs / Radiology
   99 K/uL
   8.9 g/dL
   87 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.6 mEq/L
   33 mg/dL
   101 mEq/L
   137 mEq/L
   28.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2180-10-19**]  04:58 PM
                             [**2180-10-19**]  09:44 PM
                             [**2180-10-20**]  02:19 AM
                             [**2180-10-20**]  02:29 AM
                             [**2180-10-21**]  06:22 AM
                             [**2180-10-21**]  12:58 PM
                             [**2180-10-21**]  06:41 PM
                             [**2180-10-22**]  06:02 AM
                             [**2180-10-22**]  05:42 PM
                             [**2180-10-23**]  05:26 AM
   WBC
   5.9
   6.8
   5.1
   5.7
   Hct
   9.1
   25
   26.6
   29
   28.9
   24.1
   25.1
   28.0
   Plt
   92
   70
   54
   68
   79
   99
   Cr
   3.8
   2.2
   1.5
   1.4
   1.1
   Glucose
   155
   92
   90
   116
   87
   Other labs: PT / PTT / INR:10.5/24.0/0.9, ALT / AST:29/19, Alk Phos / T
   Bili:31/0.4, Differential-Neuts:90.9 %, Lymph:5.9 %, Mono:2.5 %,
   Eos:0.6 %, Fibrinogen:161 mg/dL, Albumin:2.8 g/dL, LDH:173 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   CXR: enlargement of cardiac silhouette without vascular congestion.
   Mild bibasilar atelectatic changes with blunting of the left
   costophrenic angle relating to a small amt pleural fluid
   Assessment and Plan
   #. Cardiomyopathy: Pt with ECHO on [**10-11**] that showed worsening EF of
   15-20% with increased LV cavity size has increased and more prominent
   RV dysfunction. Pt with heart cath that showed PCWP of 33, PA sat of
   37% and CI of 1.35.  Given the patient's severe SLE she is not a
   transplant candidate.  Unclear if she has lupus induced cardiomyopathy
   (typically [**12-20**] myocarditis) or a peripartum cardiomyopathy.  Treating
   for Lupus myocarditis induced myopathy.  ECHO has shown some
   improvement of EF, in the setting of milrinone.  However, CI has
   improved off of the milrinone and Swan Ganz now d/c'd.  Pt
   hemodynamically stable, believe she is perfusing her kidneys well and
   urine output is now moderate.
   - Completed  1g solumedrol x3 days, continue with solumedrol 1mg/kg
   daily
   - s/p cytoxan 750mg  X 1 with mesna on [**10-20**]
   - plasmapharesis X 5 tx qod, s/p 2 tx
   - biopsy pending
   - if UOP improves to ~20-30cc/hr consistently, will consider starting
   lasix to diurese
   #. SLE: Pt diagnosed in [**2168**], manifested by kidney disease previously
   membranous nephropathy, facial rash, Sjogren's syndrome, Raynaud's
   phenomenon, and pleuritis.  Followed by Dr. [**Last Name (STitle) 10980**] at B&W.  Now s/p
   cytoxan, expect to see drop in platelets (pt has h/o ITP) and
   neutropenia.   Expect to see response in 10 days.
   - f/u rheum recs
   - cont ASA
   - continue steroids
   - Cont pheresis X 5 tx  Pt received 7.5mg Leupron [**10-18**] for ovarian
   protection.  Received 750mg cytoxan on [**10-20**] with mesna
   - f/u lupus labs, C3 and C4 low.  ds DNA positive 1:140.
   - lupus anticoagulant negative
   #. Acute on Chronic Renal Failure: Pt with h/o SLE Nephritis. Pt
   previously with membranous nephropathy on prior biopsy.  She had repeat
   biopsy showing type 3,4,5 lupus nephritis.  Worsening renal failure
   with creatinine increased to 3.7 today up from 1.4 on admission.  Urine
   lytes indicative of prerenal ischemia (FeUrea < 0.02%) +/- evolving
   ATN  likely from poor cardiac output/ cardiorenal syndrome.  renal U/S
   show's no obstruction.   Expect to see some improvement with treatmetn
   of lupus as above.
    - f/u renal recs.  dialysis per renal team.
   - cont to trend Cr
   - renally dose meds and avoid nephrotoxins
   # Thrombocytopenia
 Pt bleeding from HD site [**10-21**], improved with Cryo,
   Platelets, and Surgicel.  Although low likelihood of HIT, d/ced all
   heparin products.  IgG and IgM ACA negative, so unlikely to have
   prothrombotic state Heme consulted
 remove ASA, NSAIDs, all heparin
   products, f/u LFTs, fibrinogen.
   - f/u HIT Ab panel
   - trend plt
   - monitor HCT
   #Anemia - Hct 29 s/p dialysis, improved from nadir of 26.6.  Suggesting
   dilution is a significant component.  [**Month (only) 60**] be contributed by phelbotomy,
   low erythropoeisis in setting of active lupus, steroid/cytoxan tx.
   - T&S, Goal to transfuse is 23.
   #. Nausea/Diarrhea: Most likely due to edema of the GI system from
   heart failure.  Transaminitis can also be attributed to hepatic
   congestion. No evidence of portal thrombosis.
   Symptoms have significantly improved with diuresis.
   - cont zofran prn.
   #FEN: Cardiac, 2gm sodium, Low Phos
   #ACCESS: PICC
   #PROPHYLAXIS:
   -DVT ppx with heparin
   -Bowel regimen prn
   #CODE: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2180-10-19**] 11:00 AM
   PICC Line - [**2180-10-20**] 09:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: